US08247429B2
N-[2-(2-amino-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl)ethyl]acetamide
(N-{2-[2-(Dibenzylamino)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl]ethyl}acetamide (870 mg, 2.18 mmol) was dissolved in acetic acid (22 mL), 20% palladium hydroxide-carbon powder (220 mg) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 20 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure, diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine. This was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (35.3 mg, yield 7%).

reactant | N-{2-[2-(Dibenzylamino)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl]ethyl}acetamide | 2.18 mmol, 870 mg | C(C1=CC=CC=C1)N(C1=CC=C2C(=N1)C(CC2)CCNC(C)=O)CC2=CC=CC=C2 | C26H29N3O
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide carbon | 220 mg | [OH-].[Pd+2].[OH-].[C]
product | N-[2-(2-amino-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl)ethyl]acetamide | 35.3 mg, yield 7% | NC1=CC=C2C(=N1)C(CC2)CCNC(C)=O | C12H17N3O
